US06472419B1
(4-Chloro-2-methylphenyl)acetonitrile
269 g of 4-chloro-2-methoxybenzyl bromide in 214 ml of toluene are reacted with 68.2 g of sodium cyanide in 69 ml of water and 1.8 g of Aliquat 336. 141 g of colorless oil are obtained (b.p. 107° C./0.08 mbar).

reactant | 4-chloro-2-methoxybenzyl bromide | 269 g | ClC1=CC(=C(CBr)C=C1)OC | C8H8BrClO
reactant | sodium cyanide | 68.2 g | [C-]#N.[Na+]
reactant | toluene | 214 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 69 ml | O | H2O
catalyst | Aliquat 336 | 1.8 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | (4-Chloro-2-methylphenyl)acetonitrile | 141 g | ClC1=CC(=C(C=C1)CC#N)C | C9H8ClN
